US09107411B2
Stage 3: 6-chloro-N-cyclopropyl-2-(trichloromethyl)-1H-benzimidazole-5-carboxamide
To a solution of 4,5-diamino-2-chloro-N-cyclopropylbenzamide (4.1 g, 18.2 mmol) in glacial acetic acid (50 ml) was added, at 0° C., methyl 2,2,2-trichloroacetimidate (2.21 ml, 18.2 mmol). The reaction mixture was stirred at room temperature for 16 h and then the solvent was removed under reduced pressure. The 6-chloro-N-cyclopropyl-2-(trichloromethyl)-1H-benzimidazole-5-carboxamide was used for Stage 4 directly without purification.

reactant | 4,5-diamino-2-chloro-N-cyclopropylbenzamide | 18.2 mmol, 4.1 g | NC1=CC(=C(C(=O)NC2CC2)C=C1N)Cl | C10H12ClN3O
reactant | methyl 2,2,2-trichloroacetimidate | 18.2 mmol, 2.21 ml | ClC(C(OC)=N)(Cl)Cl | C3H4Cl3NO
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 6-chloro-N-cyclopropyl-2-(trichloromethyl)-1H-benzimidazole-5-carboxamide | ClC=1C(=CC2=C(NC(=N2)C(Cl)(Cl)Cl)C1)C(=O)NC1CC1 | C12H9Cl4N3O
